US05994368
To a solution of 6-hydroxymethyl-1,2,3,4-tetrahydroquinoline (314 mg) in methanol (4 ml) was dropwise added acetic anhydride (589 mg) under ice-cooling, and the mixture was stirred for 1 hour at the same temperature. The solvent was removed in vacuo, and ethyl acetate and saturated sodium bicarbonate solution was added to the residue. The organic layer was washed with water and brine, dried and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (n-hexane:ethyl acetate=1:2, V/V) to give 1-acetyl-6-hydroxymethyl-1,2,3,4-tetrahydroquinoline (227 mg) as powder.

reactant | 6-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 314 mg | OCC=1C=C2CCCNC2=CC1 | C10H13NO
reactant | acetic anhydride | 589 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 4 ml | CO | CH4O
product | 1-acetyl-6-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 227 mg | C(C)(=O)N1CCCC2=CC(=CC=C12)CO | C12H15NO2
